US04028356
In the manner given in Example 1, 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1-chloro-3-fluoropropanone under nitrogen to give 7-chloro-2-[[2-chloro-1-(fluoromethyl)ethylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | 1-chloro-3-fluoropropanone | ClCC(CF)=O | C3H4ClFO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-[[2-chloro-1-(fluoromethyl)ethylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)CF)C2=C(C=CC=C2)Cl)C1 | C18H14Cl3FN4
